US07378415B2
7-Benzenesulfonyl-4-[2-(3H-imidazol-1-yl)-ethyl]-3,4-dihydro-2H-benzo[1,4]oxazine was prepared by reducing 1-(7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-2-imidazol-1-yl-ethanone with BH3:THF using the procedure of Example 9. mp: 61.5-64.4° C.

reactant | 1-(7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-2-imidazol-1-yl-ethanone | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CCO2)C(CN2C=NC=C2)=O)C=C1 | C19H17N3O4S
solvent | THF | C1CCOC1 | C4H8O
product | 7-Benzenesulfonyl-4-[2-(3H-imidazol-1-yl)-ethyl]-3,4-dihydro-2H-benzo[1,4]oxazine | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CCO2)CCN2CNC=C2)C=C1 | C19H21N3O3S
